US05834501
5-(4-{3-(4-Chlorobenzyl)imidazo[5,4-b]pyridin-2-yl-methoxy}benzyl)thiazolidine-2,4-dione (Compound No. 1-134)
A procedure similar to that described in Example 18 was repeated, except that 1.20 g of 3-amino-2-(4-chloro- benzyl)aminopyridine (prepared as descried in Preparation 53), 1.36 g of 5-[4-(2-oxoethoxy)benzyl]-thiazolidine-2,4-dione (prepared as described in Preparation 47), 3 ml of ethanol, 3 ml of acetic acid, 1.69 g of iodine and 25 ml of 1,2-dimethoxyethane were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in ratios ranging from 1:1 to 1:2 by volume as the eluent, to give 0.40 g of the title compound, melting at 211°-213° C.

reactant | 3-amino-2-(4-chloro- benzyl)aminopyridine | 1.20 g | NC=1C(=NC=CC1)NCC1=CC=C(C=C1)Cl | C12H12ClN3
reactant | 5-[4-(2-oxoethoxy)benzyl]-thiazolidine-2,4-dione | 1.36 g | O=CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H11NO4S
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | iodine | 1.69 g | II | I2
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 5-(4-{3-(4-Chlorobenzyl)imidazo[5,4-b]pyridin-2-yl-methoxy}benzyl)thiazolidine-2,4-dione | ClC1=CC=C(CN2C(=NC=3C2=NC=CC3)COC3=CC=C(CC2C(NC(S2)=O)=O)C=C3)C=C1 | C24H19ClN4O3S
